US09386769B2
18.0 g of 2-chloro-5-ethylaminomethylthiazole, 18.6 g of 2,3,6-trichloropyridine, 30.0 g of potassium carbonate and 200 mL of N,N-dimethylformamide (DMF) were added in a 500 mL single neck flask equipped with a magnetic stirrer. After stirred at reflux temperature for 4 to 6 hours, the reaction mixture was extracted with ethyl acetate, the organic layer was separated while the aqueous layer was extracted with ethyl acetate twice. The organic phases were combined, and dried over anhydrous sodium sulfate after washed with an iced aqueous sodium chloride solution twice, then remove the solvent under reduced pressure to obtain 25.0 g of crude product which was purified by a silica gel column chromatography using a petroleum ether/ethyl acetate (20/1) as an eluent to obtain 13.0 g of 6-chloro-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-chloropyridin-2-amine, having the content 91.0%, as a yellow viscous liquid, and rod-like crystals were generated after standing, m.p.: 95.8-96.8 □ GC-MS (M+) (EI, 70 eV, m/z) calc: 321. found: 321. 1H NMR (CDCl3/TMS, 300 MHz) δ (ppm) 1.179 (t, J=7.2 Hz, 3H, CH3), 3.413 (q, J=7.2 Hz, 2H, CH2), 4.726 (s, 2H, CH2), 6.378 (d, J=8.7 Hz, 1H, Py H), 7.447 (d, J=8.7 Hz, 1H, Py H), 7.497 (s, 1H, Thiazole-H).

reactant | 2-chloro-5-ethylaminomethylthiazole | 18.0 g | ClC=1SC(=CN1)CNCC | C6H9ClN2S
reactant | 2,3,6-trichloropyridine | 18.6 g | ClC1=NC(=CC=C1Cl)Cl | C5H2Cl3N
reactant | potassium carbonate | 30.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 6-chloro-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-chloropyridin-2-amine | 13.0 g | ClC1=CC=C(C(=N1)N(CC)CC1=CN=C(S1)Cl)Cl | C11H10Cl3N3S
